US07345049B2
Process 1 N-(t-butoxycarbonyl)-4-(6-iodo-1-methyl-2,4-quinazoline-dione-3-yl)-L-phenylalanine methylester
The mixture of N-(t-butoxycarbonyl)-4-amino-L-phenylalanine methylester(10.25 g), 2-amino-5-iodobenzoic acid (9.18 g), EDC/HCl (6.8 g), HOBT (4.8 g), triethylamine (6.6 mL) and tetrahydrofuran (300 mL) was stirred at 40° C. overnight. The solution wherein about a half amount of the solvent was removed was diluted with water and ethyl acetate and liquid separation was conducted. The organic layer was washed with water, saturated aqueous solution of ammonium chloride, saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was removed to obtain 22 g of the crude material. The crude material (22 g), CDI (carbonyldiimidazole) (17 g) and DMF (200 mL) were stirred at 80° C. overnight. The reaction solution was diluted with water and ethyl acetate, and liquid separation was conducted. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was removed to obtain 23.4 g of the crude material. The crude material (23.4 g), methyl iodide (3 mL), potassium carbonate (10.0 g) and DMF (100 mL) were stirred at room temperature overnight. The reaction solution was diluted with water and ethyl acetate, and liquid separation was conducted. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was removed to obtain 15 g of the intended compound.

reactant | N-(t-butoxycarbonyl)-4-amino-L-phenylalanine methylester | 10.25 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)N)=O | C15H22N2O4
reactant | 2-amino-5-iodobenzoic acid | 9.18 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | EDC HCl | 6.8 g | C(CCl)Cl.Cl
reactant | HOBT | 4.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | CDI | 17 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methyl iodide | 3 mL | CI | CH3I
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 6.6 mL | C(C)N(CC)CC | C6H15N
product | N-(t-butoxycarbonyl)-4-(6-iodo-1-methyl-2,4-quinazoline-dione-3-yl)-L-phenylalanine methylester | 15 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)N1C(N(C2=CC=C(C=C2C1=O)I)C)=O)=O | C24H26IN3O6
